US06020366
To a dichloromethane (50 mL) suspension of aluminum chloride (3.19 g, 0.024 mol) at 0° C., under an inert nitrogen atmosphere was added via a solid addition funnel an intimate mixture of N-trifluoroacetyl-L-aspartic acid anhydride (3.01 g, 0.0142 mol) and dibenzofuran (2 g, 0.0119 mol). The resulting brick-red suspension was allowed to warm to room temperature over 12 hours. The reaction mixture was poured into ice water (250 mL), and the resulting colorless biphasic mixture was extracted with ethyl acetate (4×100 mL). The combined organic extracts were washed with water (2×100 mL), brine (2×100 mL) and dried over magnesium sulfate. The mixture was filtered, and the organic solution was concentrated by evaporation of the solvent in vacuo to yield a white solid. The solid was recrystallized from 10% ethyl acetate/hexane (v/v) to give (S)-4-dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoroacetylamino)-butyric acid (2.16 g, 48%) as a while solid; mp 174-176° C.

reactant | aluminum chloride | 0.024 mol, 3.19 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-trifluoroacetyl-L-aspartic acid anhydride | 0.0142 mol, 3.01 g | FC(C(=O)N[C@H]1CC(=O)OC1=O)(F)F | C6H4F3NO4
reactant | dibenzofuran | 0.0119 mol, 2 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-4-dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoroacetylamino)-butyric acid | 2.16 g, 48% | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C(C[C@@H](C(=O)O)NC(C(F)(F)F)=O)=O | C18H12F3NO5
